US04990614
Condensation of 3-(2,4-dibenzyloxyphenyl)propionic acid (772 mg) and 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-phenylpiperazine (964 mg) was carried out in the same manner as in Example 7 (i) to obtain colorless crystal 1-[3-(2,4-dibenzyloxyphenyl)propionyl-L-asparaginyl]- 4-phenylpiperazine (430 mg). Melting point: 96°-98° C.

reactant | 3-(2,4-dibenzyloxyphenyl)propionic acid | 772 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CCC(=O)O | C23H22O4
reactant | 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-phenylpiperazine | 964 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C19H28N4O4
product | 1-[3-(2,4-dibenzyloxyphenyl)propionyl-L-asparaginyl]- 4-phenylpiperazine | 430 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CCC(=O)N[C@@H](CC(N)=O)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C37H40N4O5
